US04101506
104.5 g (0.4 mole) of 4-benzoyloxy-2,2,6,6-tetramethyl piperidine are dissolved in 400 ml of methylene chloride, 400 ml of 1N sodium hydroxide are introduced and 21 ml of cyanogen chloride are added dropwise over a period of 30 minutes with cooling at -5° to -5° C. The cooling is then removed and the mixture is stirred until it reaches room temperature. The organic phase is separated off, dried with sodium sulphate, filtered and the methylene chloride distilled off. Recrystallisation from acetonitrile gives 94 g (82% of the theoretical) of 1-cyano-4-benzoyloxy-2,2,6,6-tetramethyl piperidine melting at 150° to 152° C. The IR-spectrum no longer shows an NH-band, but instead a nitrile band at 2170 cm-1 and a carbonyl band at 1700 cm-1.

reactant | 4-benzoyloxy-2,2,6,6-tetramethyl piperidine | 0.4 mole, 104.5 g | C(C1=CC=CC=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C16H23NO2
reactant | sodium hydroxide | 1N, 400 ml | [OH-].[Na+]
reactant | cyanogen chloride | 21 ml | N#CCl | CClN
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1-cyano-4-benzoyloxy-2,2,6,6-tetramethyl piperidine | C(#N)N1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C17H22N2O2
